US04749379
EXAMPLE 15 Preparation of 2-ethoxy-4-(β-hydroxyethyl)amino-5-nitrophenol
0.16 mol (10.5 g) of 85% pure potassium hydroxide pellets are dissolved in 80 ml of absolute ethanol on a boiling water bath. 0.08 mol (18.1 g) of 2-(β-hydroxyethyl)amino-4,5-methylenedioxy-1-nitrobenzene is added with stirring in the course of 10 minutes.

reactant | potassium hydroxide | 0.16 mol, 10.5 g | [OH-].[K+]
reactant | 2-(β-hydroxyethyl)amino-4,5-methylenedioxy-1-nitrobenzene | 0.08 mol, 18.1 g | OCCNC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C9H10N2O5
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 2-ethoxy-4-(β-hydroxyethyl)amino-5-nitrophenol | C(C)OC1=C(C=C(C(=C1)NCCO)[N+](=O)[O-])O | C10H14N2O5
